US08686628B2
(1) Synthesis of 4-(4-bromophenyl)phenylboronic acid.
10.0 g (0.032 mol) of 4,4′-dibromobiphenyl was put in a 500 mL three neck flask, and nitrogen was substituted for air in the flask, and then 200 mL of tetrahydrofuran was added and stirred at −80° C. 20 mL (0.032 mol) of n-butyllithium (1.60 M hexane solution) was dropped into a reaction solution, and stirred for 1 hour at −80° C., and 40 mL (0.060 mol) of trimethyl borate was added and stirred for 1 hour while returning to room temperature. After 200 mL (1.0 mol/L) of hydrochloric acid water was added to the reaction solution, and stirred for about 12 hours, an organic layer was washed with a saturated sodium hydrogen carbonate solution and saturated saline, and then dried with magnesium sulfate. After the reaction solution was naturally filtered, a solid which was obtained by concentrating a filtrate, was recrystallized with a mixture of ethyl acetate and hexane. 3.7 g of 4-(4-bromophenyl)phenylboronic acid that was a target substance and was a white solid was obtained in a yield of 41% (Synthesis Scheme (e-1)).

reactant | 4,4′-dibromobiphenyl | 0.032 mol, 10.0 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8Br2
reactant | n-butyllithium | 0.032 mol, 1.60 M, 20 mL | C(CCC)[Li]
reactant | trimethyl borate | 0.060 mol, 40 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid water | 1.0 mol/L, 200 mL | O.Cl
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-(4-bromophenyl)phenylboronic acid | yield of 41% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)B(O)O | C12H10BBrO2
